US05789409
4-[(4-Phenyl-1-piperazinyl)methyl]phenylacetic acid hydrochloride
Using 2.3 g of methyl 4-bromomethylphenylacetate, 2.0 g of 1-phenylpiperazine, 2 ml of triethylamine, and 80 ml of dioxane, the reaction procedure of Example 2 was otherwise repeated and the reaction product was converted to the hydrochloride using 2N-hydrochloric acid and recrystallized from methanol-ether to provide 2.0 g of the title compound melting at 231° C.-234° C.

reactant | methyl 4-bromomethylphenylacetate | 2.3 g | BrCC1=CC=C(C=C1)CC(=O)OC | C10H11BrO2
reactant | 1-phenylpiperazine | 2.0 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloride | 2N | Cl | ClH
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 4-[(4-Phenyl-1-piperazinyl)methyl]phenylacetic acid hydrochloride | 2.0 g | Cl.C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)CC(=O)O | InChI=1S/C19H22N2O2.ClH/c22-19(23)14-16-6-8-17(9-7-16)15-20-10-12-21(13-11-20)18-4-2-1-3-5-18;/h1-9H,10-15H2,(H,22,23);1H
